US07557103B2
Preparation of 3-(1,7-dimethyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
To a solution of 8-(1-ethyl-propyl)-2,6-dimethyl-3-(7-methyl-1H-indol-3-yl)-imidazo[1,2-b]pyridazine (0.037 g, 0.11 mmol) and DMF (2 mL) is added 60% NaH (0.005 g, 0.13 mmol). The solution is stirred for 30 minutes and MeI (0.008 mL, 0.13 mmol) is added. The solution is stirred for 1 h, diluted with EtOAc (20 mL), washed with water (2×10 mL), brine (10 mL), dried over MgSO4, filtered and concentrated. The residue is purified by ISCO (30%-50% EtOAc gradient) to furnish the title compound (0.025 g, 0.069 mmol, 66%). 1H NMR (CDCl3), δ 0.91 (t, J=7.5 Hz, 6H), 1.77-1.95 (m, 4H), 2.48 (s, 3H), 2.53 (s, 3H), 2.83 (s, 3H), 3.35-3.44 (m, 1H), 4.17 (s, 3H), 6.62 (s, 1H), 6.94-7.01 (m, 2H), 7.25 (s, 1H), 7.30 (dd, J=7.6, 1.3 Hz, 1H). LC/MS (m/z): calcd. for C23H28N4 (M+H)+: 361.6. found: 361.2.

reactant | 8-(1-ethyl-propyl)-2,6-dimethyl-3-(7-methyl-1H-indol-3-yl)-imidazo[1,2-b]pyridazine | 0.11 mmol, 0.037 g | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=CNC1=C(C=CC=C21)C | C22H26N4
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
reactant | NaH | 0.13 mmol, 0.005 g | [H-].[Na+]
reactant | MeI | 0.13 mmol, 0.008 mL | CI | CH3I
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | 3-(1,7-dimethyl-1H-indol-2-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.069 mmol, 0.025 g, 66% | CN1C(=CC2=CC=CC(=C12)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C23H28N4
